US07179819B2
The mixture of pentafluorophenyl 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetate (317.0 mg, 0.660 mmol), methyl 3chloro-2-[(2-pyrrolidinyl)methoxy]pyridine-5-carboxylate (172.0 mg, 0.635 mmol), Et3 N (105 ul, 0.756 mmol) in DMF (2.0 mL) was stirred for 1 hr at room temp. The mixture was diluted with EtOAc, washed with brine, and dried over Na2SO4. The solvent was removed under a reduced pressure to afford methyl 3chloro-2-[[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]methoxy]pyridine-5-carboxylate as a brownish oil. To a stirred solution of this compound in THF (6.0 mL) and H2O (2.0. mL) was added LiOH (45.3 mg, 1.89 mmol), and the reaction mixture was stirred for 5 hr at room temp. The mixture was diluted with n-hexane and extracted with 1N-NaOH. The aqueous layer was acidified by the addition of 1 N HCl and extracted with CHCl3. The extract was washed with brine, dried over Na2SO4. The solvent was removed under a reduced pressure and the obtained crude solid was recrystallized from n-hexane-EtOAc-EtOH to afford 242.2 mg (70%/0) 47 as an orange crystalline powder. mp 122–125; IR (KBr) 3354, 1709, 1593, 1535, 1454, 1257 cm−1; 1H-NMR (400 MHz, DMSO-d6) δ 1.67–2.03 (m, 4H), 2.50 (s, 3H), 3.33–3.42 (m, 1H), 3.52 (m, 2H), 3.58 (d, J=4.4 Hz, 1H), 3.83 (s, 3H), 4.27–4.31 (m, 2H), 4.42–4.47 (m, 1H), 6.73 (d, J=7.8 Hz, 1H), 6.87–6.95 (m, 3H), 7.11–7.17 (m, 2H), 7.79 (d, J=8.3 Hz, 1H), 7.99 (d, J=8.3 Hz, 1H), 8.14 (dd, J=2.0, 8.8 Hz, 1H), 8.46 (s, 1H), 8.56 (s, 1H), 8.69 (d, J=2.0 Hz, 1H), 13.06 (br s, 1H); MS (FAB) m/z 553 (M++1); Anal. Calcd for C28H29ClN4O6: C, 60.81; H, 5.29; N, 10.31. Found: C, 60.98; H, 5.50; N, 9.46.

reactant | pentafluorophenyl 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetate | 0.660 mmol, 317.0 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C23H17F5N2O4
reactant | methyl 3chloro-2-[(2-pyrrolidinyl)methoxy]pyridine-5-carboxylate | 0.635 mmol, 172.0 mg | ClC=1C(=NC=C(C1)C(=O)OC)OCC1NCCC1 | C12H15ClN2O3
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | methyl 3chloro-2-[[1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]methoxy]pyridine-5-carboxylate | ClC=1C(=NC=C(C1)C(=O)OC)OCC1N(CCC1)C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O | C29H31ClN4O6
